US09145411B2
Step 1: 3-(2-chloro-4-morpholinopyrido[3,2-d]pyrimidin-7-yl)aniline
To a 100 mL round bottom flask, 4-(7-bromo-2-chloropyrido[3,2-d]pyrimidin-4-yl)morpholine (1.5 g, 0.0046 mol—Preparation 2), 3-aminophenylboronic acid (0.67 g, 0.0051 mol), sodium carbonate (0.98 g, 0.0092 mol) toluene (30 mL), ethanol (10 mL) and water (5 mL) were added. The reaction mixture was degassed with N2 for 5-10 minutes. To the same reaction mixture, Pd(PPh3)2Cl2 (0.14 g, 0.0002 mol) was added and again degassed with N2 for 5-10 minutes. The reaction mixture was stirred at 90° C. for 2 hours. The reaction mixture was cooled and diluted with ethyl acetate. The organic layer was washed with water, brine, dried over anhydrous sodium sulfate and evaporated under reduced pressure to afford the crude product. The crude product was purified by column chromatography (60-120 silica gel, 60% ethyl acetate in hexane) to provide the title compound (1.1 g, 70%). 1H NMR (300 MHz, DMSO-d6): δ 9.02 (d, J=2.1 Hz, 1H), 8.12 (d, J=2.1 Hz, 1H), 7.22 (t, J=7.8 Hz, 1H), 7.01-6.99 (m, 2H), 6.68-6.17 (m, 1H), 5.33 (br s, 2H), 4.52 (br s, 4H), 3.79 (t, J=4.8 Hz, 4H). LC-MS (ESI): Calculated mass: 341.1; Observed mass [M+H]+: 342.1. (RT=0.73 min).

reactant | 4-(7-bromo-2-chloropyrido[3,2-d]pyrimidin-4-yl)morpholine | 0.0046 mol, 1.5 g | BrC1=CC=2N=C(N=C(C2N=C1)N1CCOCC1)Cl | C11H10BrClN4O
reactant | 3-aminophenylboronic acid | 0.0051 mol, 0.67 g | NC=1C=C(C=CC1)B(O)O | C6H8BNO2
reactant | sodium carbonate | 0.0092 mol, 30 mL, 0.98 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethanol | 10 mL | C(C)O | C2H6O
catalyst | Pd(PPh3)2Cl2 | 0.0002 mol, 0.14 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 5 mL | O | H2O
product | 3-(2-chloro-4-morpholinopyrido[3,2-d]pyrimidin-7-yl)aniline | 1.1 g, 70% | ClC=1N=C(C2=C(N1)C=C(C=N2)C=2C=C(N)C=CC2)N2CCOCC2 | C17H16ClN5O
